US06177440B1
B. Preparation of 9-benzyl-5-carbamoyl-4-methoxy-1-methylcarbazole
A solution of 0.148 g of 5-carbamoyl-4-methoxy-1-methylcarbazole in 1.1 ml of dimethylformamide was added to 0.026 g of sodium hydride (60% in mineral oil) in 0.4 ml of dimethylformamide and stirred for 60 minutes at room temperature. Benzyl bromide (0.076 ml) was then added and the reaction was stirred overnight. The reaction mixture was poured into 20 ml of saturated ammonium chloride solution and then extracted twice with ethyl acetate. The extracts were washed with water and then with brine, dried over magnesium sulfate and concentrated. The residue was rinsed with hexane and dissolved in dichloromethane, filtered and concentrated to afford 0.21 g of the subtitle compound. FDMS m/e 344 (M+)

reactant | 5-carbamoyl-4-methoxy-1-methylcarbazole | 0.148 g | C(N)(=O)C1=C2C=3C(=CC=C(C3NC2=CC=C1)C)OC | C15H14N2O2
reactant | sodium hydride | 0.026 g | [H-].[Na+]
reactant | Benzyl bromide | 0.076 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | dimethylformamide | 1.1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
product | 9-benzyl-5-carbamoyl-4-methoxy-1-methylcarbazole | 0.21 g | C(C1=CC=CC=C1)N1C2=CC=CC(=C2C=2C(=CC=C(C12)C)OC)C(N)=O | C22H20N2O2
